US04698094
3.3 g of 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetic acid and 1.8 g of 1-methoxy-2-propanol were dissolved in 50 ml of benzene, followed by addition of 0.5 g of p-toluene sulfonic acid. Then, the mixture was heated under reflux for 6 hours. After completion of the reation, 50 ml of ether was added to the reaction mixture. The resulting mixture was washed with water by the customary method and dehydrated with anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain 3.9 g of 1-methyl-2-methoxyethyl 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetate.

reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetic acid | 3.3 g | ClC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C(F)(F)F | C15H10ClF3O3
reactant | 1-methoxy-2-propanol | 1.8 g | COCC(C)O | C4H10O2
reactant | p-toluene sulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-methyl-2-methoxyethyl 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetate | 3.9 g | ClC1=C(OC=2C=C(C=CC2)CC(=O)OC(COC)C)C=CC(=C1)C(F)(F)F | C19H18ClF3O4
